"Pole splitting with opamps"
* file: poleSplitOpamp.cir
* SLiCAP netlist file
V1 1 0 0
R1 1 2 {R_a}
C1 2 0 {C_a}
E1 0 3 2 0 {A_0/(1+s*tau)}
C2 2 3 {C_c}
.param C_c=0
.source V1
.detector V_3
.lgref E1
.end
